US07786151B2
A series of benzothiazole compounds including TG003 were synthesized according to the procedures reported by Gupta et al. (27). In the case of TG003, a mixture of commercially available 5-methoxy-2-methylbenzothiazole (202 mg, 1.12 mmol) and ethyl iodide (2.70 ml, 33.7 mmol) was refluxed for 24.5 h. The precipitate was filtrated, washed with ethyl acetate (20 ml) on a funnel, and dried under reduced pressure to afford 3-ethyl-5-methoxy-2-methylbenzothiazolium iodide (270 mg, 0.805 mmol, 71.9%) as a pale green solid. To a suspension of 3-ethyl-5-methoxy-2-methylbenzothiazolium iodide (502 mg, 1.49 mmol) in acetonitrile (2.0 ml), acetic anhydride (330 μl, 3.49 mmol) and triethylamine (490 μl, 3.51 mmol) were successively added at room temperature. After refluxing for 2 h, the mixture was cooled to room temperature and concentrated under reduced pressure. Water (50 ml) was added to the residue, and the mixture was extracted with ethyl acetate (three times with 15 ml). The combined organic extracts were washed with brine (30 ml), dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (18 g, CH2Cl2/ethyl acetate, 4:1) to afford (Z)-1-(3-ethyl-5-methoxy-2,3-dihydrobenzothiazol-2-ylidene) propan-2-one (TG003) (201 mg, 0.806 mmol, 54.1%) as a pale yellow solid.

reactant | benzothiazole | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | TG003 | CCN\1C2=C(C=CC(=C2)OC)S/C1=C\C(=O)C | C13H15NO2S
reactant | 5-methoxy-2-methylbenzothiazole | 1.12 mmol, 202 mg | COC=1C=CC2=C(N=C(S2)C)C1 | C9H9NOS
reactant | ethyl iodide | 33.7 mmol, 2.70 ml | C(C)I | C2H5I
product | 3-ethyl-5-methoxy-2-methylbenzothiazolium iodide | 0.805 mmol, 270 mg, 71.9% | [I-].C(C)[N+]1=C(SC2=C1C=C(C=C2)OC)C | InChI=1S/C11H14NOS.HI/c1-4-12-8(2)14-11-6-5-9(13-3)7-10(11)12;/h5-7H,4H2,1-3H3;1H/q+1;/p-1
